US05597929
In a mixture of 20 ml of dichloromethane and 3.4 g (33.6 mmol) of triethylamine was dissolved 1.50 g (10.6 mmol) of ethyl tetrazol-5-carboxylate, and 3.75 g (34.6 mmol) of ethyl chloroformate was added dropwise at 0° C. After stirring overnight at 0° C. to room temperature, water was added to the reaction mixture, followed by phase separation. Then, the dichloromethane layer was successively washed with 5% sodium dihydrogenphosphate solution, 5% sodium hydrogencarbonate solution and water, dried with magnesium sulfate, and concentrated, which afforded 1.42 g of ethyl N-ethoxycarbonyltetrazol-5-carboxylate. Yield, 63%.

reactant | triethylamine | 33.6 mmol, 3.4 g | C(C)N(CC)CC | C6H15N
reactant | ethyl tetrazol-5-carboxylate | 10.6 mmol, 1.50 g | N1N=NN=C1C(=O)OCC | C4H6N4O2
reactant | ethyl chloroformate | 34.6 mmol, 3.75 g | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl N-ethoxycarbonyltetrazol-5-carboxylate | 1.42 g | C(C)OC(=O)N1N=NN=C1C(=O)OCC | C7H10N4O4
